US08420642B2
3-Cyclopentyloxy-5-phenoxy-pyridine-2-ylamine (0.33 mmol) is dissolved in THF (5 ml) and 1,1′-thiocarbonyldiimidazol (4 eq.) is added. The reaction solution is stirred 19 hours. 32% NH4OH (20 eq.) is added and stirred 3 hours at room temperature. Water (50 ml) is added and extracted with dichloromethane. The combined organic layers are washed with brine and dried over MgSO4. The solvent is removed in vacuo. (3-Cyclopentyloxy-5-phenoxy-pyridine-2-yl)-thiourea is obtained as brown oil in a yield of 87%; HPLC (method C): 2.13 min; LC-MS (method A): 2.18 min, 330.15 (M+H+).

reactant | 3-Cyclopentyloxy-5-phenoxy-pyridine-2-ylamine | 0.33 mmol | C1(CCCC1)OC=1C(=NC=C(C1)OC1=CC=CC=C1)N | C16H18N2O2
reactant | 1,1′-thiocarbonyldiimidazol | 4 eq. | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | NH4OH | 20 eq. | [NH4+].[OH-]
reactant | Water | 50 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (3-Cyclopentyloxy-5-phenoxy-pyridine-2-yl)-thiourea | yield of 87% | C1(CCCC1)OC=1C(=NC=C(C1)OC1=CC=CC=C1)NC(=S)N | C17H19N3O2S
